US04904653
6-Methyl-2-methylthio-8-phenyl-5,6,7,8-tetrahydro-4H-thieno [2,3-d]azepine
A solution of n-butyl lithium in n-hexane (1.6M, 0.75 ml) was added dropwise to a stirred solution of 2-bromo-6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine (0.40 g hydrobromide salt converted to free base by aqueous ammonia/dichloromethane extraction) in dry tetrahydrofuran (10 ml) cooled to -70° under nitrogen. After 10 minutes at -70° dimethyl disulphide (0.11 ml) was added dropwise and the mixture allowed to warm to room temperature. After 30 minutes the solution was evaporated, water (10 ml) added to the residue and extracted with dichloromethane (2×5 ml). The extracts were dried, filtered and evaporated to a pale yellow solid. Recrystallisation twice from n-hexane (4 ml) gave white needles (m.p. 90°) of the title product.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2-bromo-6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine | 0.40 g | BrC1=CC2=C(C(CN(CC2)C)C2=CC=CC=C2)S1 | C15H16BrNS
reactant | dimethyl disulphide | 0.11 ml | CSSC | C2H6S2
solvent | n-hexane | 1.6M, 0.75 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 6-Methyl-2-methylthio-8-phenyl-5,6,7,8-tetrahydro-4H-thieno [2,3-d]azepine | CN1CC(C2=C(CC1)C=C(S2)SC)C2=CC=CC=C2 | C16H19NS2
